US06638945B1
A solution of hydrogen chloride in ether (1 molar, 0.34 ml) was added to a mixture of 4-chloro-6,7-dimethoxy-3-fluoro-quinoline (80 mg) and 4-(2-methoxyphenoxy)-aniline (142 mg) in cyclohexanol (3 ml). The mixture was stirred and heated at 110° C. for 18 hours. The mixture was cooled to ambient temperature and then filtered. The crystals were washed with a small volume of diethyl ether and then dried to give 4-(2-methoxyphenoxy)-anilino-3-fluoro-6,7-dimethoxyquinoline (120 mg, 79%).

reactant | hydrogen chloride | Cl | ClH
reactant | 4-chloro-6,7-dimethoxy-3-fluoro-quinoline | 80 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)F | C11H9ClFNO2
reactant | 4-(2-methoxyphenoxy)-aniline | 142 mg | COC1=C(OC2=CC=C(N)C=C2)C=CC=C1 | C13H13NO2
solvent | ether | 1 molar, 0.34 ml | CCOCC | C4H10O
solvent | cyclohexanol | 3 ml | C1(CCCCC1)O | C6H12O
product | 4-(2-methoxyphenoxy)-anilino-3-fluoro-6,7-dimethoxyquinoline | 120 mg, 79% | COC1=C(OC2=CC=C(NC3=NC4=CC(=C(C=C4C=C3F)OC)OC)C=C2)C=CC=C1 | C24H21FN2O4
